US04772600
2-(4-Bromophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
Under a nitrogen atmosphere, oxalyl chloride (3.4 g, 0.0267 mole) was added dropwise (slowly) to a stirred and chilled (10° C.) solution of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (8.4 g, 0.0254 mole) in anhydrous dimethylformamide (50 ml). The reaction was heated at 55°-60° C. for 4 hrs, cooled to room temperature, and added dropwise to a stirred and chilled (10° C.) solution of 3-aminopyridine (2.6 g, 0.0279 mole) and triethylamine (5.4 g, 0.0534 mole) in anhydrous dimethylformamide (100 ml). The reaction mixture was stirred at room temperature overnight and then 100 ml of dimethylformamide was distilled off at 100 mm Hg. The residue was cooled and triturated in potassium bicarbonate solution (2×50 ml) and filtered. The filter cake was rinsed with water (2×50 ml) and recrystallized from isopropyl alcohol-isopropyl ether, giving 5.64 g, (53%) of solids. Recrystallization from isopropyl alcohol-isopropyl ether gave 2.3 g of an off-white solid, mp. 215°-217° C.

reactant | oxalyl chloride | 0.0267 mole, 3.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0254 mole, 8.4 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 3-aminopyridine | 0.0279 mole, 2.6 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 0.0534 mole, 5.4 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-Bromophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 53% | O.BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC=1C=NC=CC1 | InChI=1S/C19H14BrN5O.H2O/c20-14-7-5-13(6-8-14)18-24-16-4-2-10-22-19(16)25(18)12-17(26)23-15-3-1-9-21-11-15;/h1-11H,12H2,(H,23,26);1H2
